US06803384B2
N-(2,6-dichlorobenzoyl)-3-[(3-RS)-3-phenylbutanoyl]amino-L-alanine;
N-(2-chloro-6-fluorobenzoyl)-3-[(3RS)-3-phenylbutanoyl]amino-L-alanine) or k is 0 (for example N-(2,6-dichlorobenzoyl)-3-[(2S)-5-oxotetrahydrofuran-2-carbonyl]amino-L-alanine;

reactant | N-(2-chloro-6-fluorobenzoyl)-3-[(3RS)-3-phenylbutanoyl]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(CC(C)C2=CC=CC=C2)=O)C(=O)O)C(=CC=C1)F | C20H20ClFN2O4
reactant | N-(2,6-dichlorobenzoyl)-3-[(2S)-5-oxotetrahydrofuran-2-carbonyl]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)[C@H]2OC(CC2)=O)C(=O)O)C(=CC=C1)Cl | C15H14Cl2N2O6
product | N-(2,6-dichlorobenzoyl)-3-[(3-RS)-3-phenylbutanoyl]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(CC(C)C2=CC=CC=C2)=O)C(=O)O)C(=CC=C1)Cl | C20H20Cl2N2O4
